US06867210B2
3,5-Diamino-6-(4-phenoxyphenyl)pyrazine-2-carboxamide
To a mixture of 4-phenoxyphenylboronic acid (0.22 g, 1.02 mmol), 3,5-diamino-6-chloropyrazine-2-carboxamide (0.176 g, 0.919 mmol), sodium carbonate (0.33 g, 2.06 mmol) in toluene (14 mL), ethanol (3.5 mL), and water (3.5 mL) was added tetrakis(triphenylphosphine)palladium (60 mg). The mixture was refluxed overnight. The reaction was allowed to cool to room temperature, then partitioned between water and ethyl acetate. The aqueous layer was extracted one more time with ethyl acetate. The combined organic layers were washed with water, dried over sodium sulfate, filtered, and evaporated under reduced pressure to give the crude product as a solid. Flash chromatography (Silica gel; 6:4 ethyl acetate/dichloromethane to 7:3 ethyl acetate/dichloromethane) and subsequent recrystalization from chloroform afforded 81 mg (27%) of the desired product as white solid. 1H NMR (CDCl3): δ 7.58 (d, J=9.0 Hz, 2H), 7.37 (t, J=7.8 Hz, 2H), 7.38 (bs, 1H), 7.15 (t, J=8.4 Hz, 1H), 7.10-7.05 (m, 4H), 5.26 (bs, 1H), 4.97 (s, 4H).

reactant | 4-phenoxyphenylboronic acid | 1.02 mmol, 0.22 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO3
reactant | 3,5-diamino-6-chloropyrazine-2-carboxamide | 0.919 mmol, 0.176 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)N | C5H6ClN5O
reactant | sodium carbonate | 2.06 mmol, 0.33 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 3.5 mL | O | H2O
solvent | toluene | 14 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3,5-Diamino-6-(4-phenoxyphenyl)pyrazine-2-carboxamide | 81 mg, 27% | NC=1C(=NC(=C(N1)N)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C17H15N5O2
